US07790885B2
Benzyl 1-{[(4-{[2-(aminocarbonyl)pyridin-4-yl]oxy}-2,5-difluorophenyl)amino]carbonyl}cyclopropanecarboxylate
1-[(Benzyloxy)carbonyl]cyclopropanecarboxylic acid (1.04 g) was dissolved in tetrahydrofuran (15 ml) under a nitrogen atmosphere. N-Methylmorpholine (0.520 ml) was added at 0° C., and the mixture was stirred for 15 minutes. Thionyl chloride (0.345 ml) was added to the mixture at 0° C., and the mixture was stirred at the same temperature for 30 minutes. 4-(4-Amino-2,5-difluorophenoxy)pyridine-2-carboxamide (500 mg) and N-methylmorpholine (0.520 ml) was added, and the mixture was stirred at room temperature for 2 hours and 50 minutes. The reaction mixture was partitioned after the addition of a 1N aqueous solution of sodium hydroxide (15 ml) and ethyl acetate (20 ml). The organic layer was washed with a 1N aqueous solution of sodium hydroxide (15 ml), water (15 ml) and brine (15 ml), and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:1, then 1:2). The fractions containing the target compound was concentrated under reduced pressure to give the title compound (822.7 mg, 93%) as white powder.

reactant | 1-[(Benzyloxy)carbonyl]cyclopropanecarboxylic acid | 1.04 g | C(C1=CC=CC=C1)OC(=O)C1(CC1)C(=O)O | C12H12O4
reactant | N-Methylmorpholine | 0.520 ml | CN1CCOCC1 | C5H11NO
reactant | Thionyl chloride | 0.345 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(4-Amino-2,5-difluorophenoxy)pyridine-2-carboxamide | 500 mg | NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1F)F | C12H9F2N3O2
reactant | N-methylmorpholine | 0.520 ml | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Benzyl 1-{[(4-{[2-(aminocarbonyl)pyridin-4-yl]oxy}-2,5-difluorophenyl)amino]carbonyl}cyclopropanecarboxylate | 822.7 mg, 93% | NC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C1(CC1)C(=O)OCC1=CC=CC=C1)F | C24H19F2N3O5
